US07781576B2
2-Deoxy-2-fluoro-2-C-methyl-D-ribono-1,4-lactone (200 mg, 1.219 mmol) was dissolved in anhydrous pyridine (2.4 ml) and cooled to 0° C. under an atmosphere of argon. Benzoyl chloride (353 μl, 3.05 mmol) was added dropwise over 5 min. The solution was allowed to warm to room temperature and stirred for 4 h. Benzoyl chloride (142 μl, 1.219 mmol) was added dropwise and the mixture was stirred for 16 h after which time a further portion of benzoyl chloride (142 μl, 1.219 mmol) was added. Having stirred the solution for a further 3 h, a final portion of benzoyl chloride (142 μl, 1.219 mmol) was added and left for a further 1 h. T.l.c. (ethyl acetate/heptane, 2:3) indicated complete conversion of the starting material (Rf 0.16) to faintly stained, but UV active products (Rf 0.67, 0.63). The reaction was quenched with water (1 ml) and the solids dissolved. After stirring at room temperature for 5 min crystals precipitated from the solution which were filtered and washed with water (2 ml×2) and found by t.l.c. to contain two UV active components and pyridine. The dried, sticky solid (400 mg) was therefore dissolved in dichloromethane (10 ml) and subjected to a 1M HClaq (4 ml×2) wash. The organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. The crude off-white residue (340 mg) was purified by flash column chromatography (pre-adsorbed onto silica from dichloromethane, eluted with ethyl acetate/heptane, 1:4) to give 3,5-di-benzoyl-2-deoxy-2-fluoro-2-C-methyl-D-ribono-1,4-lactone (272 mg, 60%) as fine, white needles.

reactant | 2-Deoxy-2-fluoro-2-C-methyl-D-ribono-1,4-lactone | 1.219 mmol, 200 mg | F[C@]1(C(=O)O[C@@H]([C@H]1O)CO)C | C6H9FO4
reactant | Benzoyl chloride | 3.05 mmol, 353 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Benzoyl chloride | 1.219 mmol, 142 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | benzoyl chloride | 1.219 mmol, 142 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | benzoyl chloride | 1.219 mmol, 142 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
solvent | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-di-benzoyl-2-deoxy-2-fluoro-2-C-methyl-D-ribono-1,4-lactone | 272 mg, 60% | C(C1=CC=CC=C1)(=O)[C@@]1([C@@](C(=O)O[C@@H]1C(O)C(C1=CC=CC=C1)=O)(C)F)O | C20H17FO6
